US08664401B2
To a solution of ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (345 mg, 1.20 mmol) and 4-(benzyloxy)pyridin-2-ol (201 mg, 1.00 mmol) in tetrahydrofuran (10 mL) was added cesium carbonate (652 mg, 2.00) at ambient temperature. The resulting mixture was stirred at 50° C. overnight. The mixture was allowed to cool to ambient temperature and filtered through a celite pad. The pad was washed with ethyl acetate; the filtrates were combined and concentrated to a crude residue. The material was purified via filtration through a silica gel pad and eluted with heptanes/ethyl acetate. The desired fractions were isolated and the solvent removed via rotary evaporation affording ethyl 4-[4-(benzyloxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate as a white solid. 302.2 mg. 1H NMR (CD3OD) 7.47, (1H, d), 7.41-7.29 (5H, m), 6.15-6.13, (1H, dd), 5.96 (1H, d), 5.07 (2H, s), 4.20-4.12 (2H, m), 4.00-3.93 (1H, m), 3.47 (1H, q), 3.21 (3H, s), 2.60-2.53 (1H, m), 2.32-2.25 (1H, M), 3.20 (3H, s), 1.26 (3H, t) ppm.

reactant | ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 1.20 mmol, 345 mg | BrCCC(C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
reactant | 4-(benzyloxy)pyridin-2-ol | 1.00 mmol, 201 mg | C(C1=CC=CC=C1)OC1=CC(=NC=C1)O | C12H11NO2
reactant | cesium carbonate | 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 4-[4-(benzyloxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CCC(C(=O)OCC)(S(=O)(=O)C)C)=O | C20H25NO6S
